US06506901B2
Step B: 4-Aminomethyl-1-(4,4,4-trifluorobutyl)-piperidine
Prepared from 1-(4,4,4-trifluorobutyl)-piperidine-4-carboxamide (0.82 g, 3.3 mmol) and LAH (0.25 g, 6.6 mmol) according to general the procedure used for Example 8 (Step B) to give 0.73 g of title compound as a clear oil.

reactant | 1-(4,4,4-trifluorobutyl)-piperidine-4-carboxamide | 3.3 mmol, 0.82 g | FC(CCCN1CCC(CC1)C(=O)N)(F)F | C10H17F3N2O
reactant | LAH | 6.6 mmol, 0.25 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-(4,4,4-trifluorobutyl)-piperidine | 0.73 g | NCC1CCN(CC1)CCCC(F)(F)F | C10H19F3N2
